US05364871
A suspension of 2-amino-4-bromoacetylthiazole hydrobromide (14.0 g) and N-[(thiocarbamoyl)methyl]-acetamide (6.1 g) in ethanol (300 ml) was stirred at room temperature for 24 hours. The insoluble material was removed by filtration. The solvent was removed under reduced pressure. The residue was suspended in water (300 ml). The mixture was alkalized to pH 10 with a saturated aqueous potassium carbonate solution and then was extracted with a mixture of ethyl acetate (500 ml) and tetrahydrofuran (100 ml). The extract was dried over magnesium sulfate and then was evaporated to afford 4-(2-acetylaminomethylthiazol-4-yl)-2-aminothiazole (5.83 g).

reactant | 2-amino-4-bromoacetylthiazole hydrobromide | 14.0 g | Br.NC=1SC=C(N1)C(CBr)=O
reactant | N-[(thiocarbamoyl)methyl]-acetamide | 6.1 g | C(N)(=S)CNC(C)=O | C4H8N2OS
solvent | ethanol | 300 ml | C(C)O | C2H6O
product | 4-(2-acetylaminomethylthiazol-4-yl)-2-aminothiazole | 5.83 g | C(C)(=O)NCC=1SC=C(N1)C=1N=C(SC1)N | C9H10N4OS2
